US08957093B2
Step 1: (S,E)-N-(3-isopropylbenzylidene)-2-methylpropane-2-sulfinamide
To a solution of 3-isopropylbenzaldehyde (0.711 g, 4.75 mmol) in THF (5 mL) was added (S)-2-methyl-2-propanesulfinamide (0.534 g, 4.32 mmol) and Ti(OiPr)4 (2.75 mL, 8.64 mmol). The resulting mixture was allowed to stir over night at rt where it was then quenched with aqueous NH4Cl (5 mL) and diluted with EtOAc (100 mL). The mixture was then filtered through celite using excess EtOAc to rinse, concentrated to an oil crude and separated by silica gel (EtOAc:Hexanes) to isolate the title compound.

reactant | 3-isopropylbenzaldehyde | 4.75 mmol, 0.711 g | C(C)(C)C=1C=C(C=O)C=CC1 | C10H12O
reactant | (S)-2-methyl-2-propanesulfinamide | 4.32 mmol, 0.534 g | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Ti(OiPr)4 | 8.64 mmol, 2.75 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | (S,E)-N-(3-isopropylbenzylidene)-2-methylpropane-2-sulfinamide | C(C)(C)C=1C=C(\C=N\[S@@](=O)C(C)(C)C)C=CC1 | C14H21NOS
